US05916983
The particulars of the conversion of the dodecadienyl chloride to the alcohol that is CM pheromone are set forth below. To a 100 mL glass round-bottomed flask equipped with a reflux condenser, a stir bar and a nitrogen atmosphere were added 1.0 g (5 mmol) of 8,10-dodecadien-1-yl chloride, 8.1 g (8.3 mmol) potassium acetate and 40 ml of glacial acetic acid. This mixture was placed in a 150° C. oil bath for 76 hours, after which time GC analysis indicated that the reaction was >98% complete. The reaction mixture was poured into 100 ml of water and ice and stirred for one hour. Ethyl acetate (100 ml) was added and the organic phase was separated from the aqueous phase. The organic phase was washed with 4×50 mL of sodium bicarbonate-saturated water until the pH of the water was neutral, dried with sodium sulfate, filtered and the organic solvent was removed under reduced pressure to yield 8,10-dodecadienyl acetate as a yellow liquid. This acetate was dissolved into 30 ml of methanol and 1 ml of 6 M sodium hydroxide and stirred at room temperature for two hours. Methanol was removed under reduced pressure, 10 mL of heptane and 1 mL of 1 M HCl were added and the aqueous phase removed. The organic phase was placed in a -20° C. freezer for 18 hours. White crystals were removed by filtration to yield 200 mg of E,E-8,10-dedecadienol. Gas chromatography, 1H NMR and 13C NMR analysis of the product were identical to a standard sample of E,E-8,10-dodecadienol.

reactant | dodecadienyl chloride | C(=CC=CCCCCCCCC)Cl | C12H21Cl
reactant | 8,10-dodecadien-1-yl chloride | 5 mmol, 1.0 g | C(CCCCCCC=CC=CC)Cl | C12H21Cl
reactant | potassium acetate | 8.3 mmol, 8.1 g | C(C)(=O)[O-].[K+]
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 8,10-dodecadienyl acetate | C(C)(=O)OCCCCCCCC=CC=CC | C14H24O2
